US09102673B2
Step 3: methyl 8-chloro-3-(prop-2-en-1-yl)imidazo[1,2-a]pyrazine-2-carboxylate
To a suspension of methyl 3-bromo-8-chloroimidazo[1,2-a]pyrazine-2-carboxylate (250 mg, 0.861 mmol) in THF (8.6 mL) cooled to −40 C was added isopropylmagnesium chloride (0.99 mL, 1.29 mmol) dropwise. After 1 h stirring, copper cyanide (7.7 mg, 0.09 mmol) and allyl bromide (0.15 mL, 1.7 mmol) were added and the mixture was warmed to r.t. After 1 h, the reaction was poured into brine. The organic layer was separated, dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified on silica (gradient elution, 0-80% EtOAc/hexanes) to yield the title product (48 mg). HRMS (ESI) calc (M+H)+=252.0534. found 252.0539.

reactant | methyl 3-bromo-8-chloroimidazo[1,2-a]pyrazine-2-carboxylate | 0.861 mmol, 250 mg | BrC1=C(N=C2N1C=CN=C2Cl)C(=O)OC | C8H5BrClN3O2
reactant | isopropylmagnesium chloride | 1.29 mmol, 0.99 mL | C(C)(C)[Mg]Cl
reactant | copper cyanide | 0.09 mmol, 7.7 mg | [Cu](C#N)C#N
reactant | allyl bromide | 1.7 mmol, 0.15 mL | C(C=C)Br | C3H5Br
solvent | THF | 8.6 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | methyl 8-chloro-3-(prop-2-en-1-yl)imidazo[1,2-a]pyrazine-2-carboxylate | 48 mg | ClC=1C=2N(C=CN1)C(=C(N2)C(=O)OC)CC=C | C11H10ClN3O2
